US08859777B2
Step 1: Preparation of Methyl 2,2-Dibenzyl-3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate.
This compound was prepared from methyl 3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate and 2.5 equivalents of both lithium hexamethyldisilazide and benzyl bromide as described in Step 2 of Example 4 in 38% yield.

reactant | methyl 3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC(=O)OC)F | C15H19ClFNO2
reactant | lithium hexamethyldisilazide | 2.5 equivalents | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | Methyl 2,2-Dibenzyl-3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate | 38% yield | C(C1=CC=CC=C1)C(C(=O)OC)(CN1CCC(CC1)(F)C1=CC=C(C=C1)Cl)CC1=CC=CC=C1 | C29H31ClFNO2
